* Z:\home\sebastian\Documentos\Utn\4to\tcII\Tp1\ej1_a.asc
R1 N001 N002 10K
R2 N002 N003 10MEG
R3 N003 V2 10Meg
R4 N003 0 10MEG
RC V2 0 10Meg
V1 N001 0 1
XU1 N002 0 V2 opamp Aol=100K GBW=10Meg
.inc opamp.sub
.tran 0 0.5 0 0.01
.backanno
.end
